US05650428
The procedure described in Example 177 was repeated, except that (RS)-2-(4-chlorobenzenesulfonylamino)-3-methylbutanoic acid (1 g) and ethyl 4-aminophenylacetate hydrochloride (665 mg) were condensed in chloroform (30 ml) in the presence of triethylamine (1.9 ml) and 1-methyl-2-chloropyridinium iodide (1.05 g) to obtain (RS)-2-(4-chlorobenzenesulfonylamino)-N-(4-(ethoxycarbonylmethyl) phenyl)-3-methylbutanamide (542 mg).

reactant | (RS)-2-(4-chlorobenzenesulfonylamino)-3-methylbutanoic acid | 1 g | ClC1=CC=C(C=C1)S(=O)(=O)NC(C(=O)O)C(C)C | C11H14ClNO4S
reactant | ethyl 4-aminophenylacetate hydrochloride | 665 mg | Cl.NC1=CC=C(C=C1)CC(=O)OCC
reactant | triethylamine | 1.9 ml | C(C)N(CC)CC | C6H15N
reactant | 1-methyl-2-chloropyridinium iodide | 1.05 g | [I-].C[N+]1=C(C=CC=C1)Cl
solvent | chloroform | 30 ml | C(Cl)(Cl)Cl | CHCl3
product | (RS)-2-(4-chlorobenzenesulfonylamino)-N-(4-(ethoxycarbonylmethyl) phenyl)-3-methylbutanamide | 542 mg | ClC1=CC=C(C=C1)S(=O)(=O)NC(C(=O)NC1=CC=C(C=C1)CC(=O)OCC)C(C)C | C21H25ClN2O5S
